US05270310
2-Methyl-l-[3-(N-hexadecanoyl)aminopropyl]piperidine (11)
To a solution of 1-(3-aminopropyl)-2-pipecoline (1.00 g, 6.40 mmole) in methylene chloride (25 mL) was added palmitoyl chloride (1.73 g, 6.40 mmole) in small portions. The reaction mixture was stirred at room temperature overnight. The reaction mixture was washed twice with saturated aqueous sodium bicarbonate and once with brine. The organic layer was dried over magnesium sulfate and the salts removed by filtration. The solvent was removed under reduced pressure and the residue dried in vacuo to give the title compound (2.12 g, 83%), mp. 48°-50° C. 1H NMR (300 MHz, CDCl3): δ0.883 (3H, t, J=6.5 Hz), 1.136 (3H, d, J=5.5 Hz), 1.254 (24H, bs), 1.60 to 1.70 (4H, m), 2.157 (2H, t, J=7.6 Hz), 2.37 to 2.39 (2H, m), 2.89 to 2.94 (3H, m), 3.24 to 3.27 (1H, m), 3.40 to 3.44 (1H, m), and 7.266 (1H, bs). Analysis calculated for C25H50N2O.1/4H2O C, 75.16; H, 12.61; N, 7.01. Found: C, 75.16; H, 12.69; N, 7.16.

reactant | 1-(3-aminopropyl)-2-pipecoline | 6.40 mmole, 1.00 g | CC1CCCCN1CCCN | C9H20N2
reactant | palmitoyl chloride | 6.40 mmole, 1.73 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-Methyl-l-[3-(N-hexadecanoyl)aminopropyl]piperidine | 2.12 g, 83% | CC1N(CCCC1)CCCNC(CCCCCCCCCCCCCCC)=O | C25H50N2O
